US08247403B2
(1) tert-butyl 9-cyclohexyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-(cyclohexa-1-en-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (160 mg, 0.486 mmol) and 10% palladium on carbon (100 mg) in methanol (5 ml) was stirred under a hydrogen atmosphere for 12 hr. The reaction mixture was filtered, and the filtrate was concentrated to give the desired product (150 mg, 93.2%) as an oil.

reactant | tert-butyl 9-(cyclohexa-1-en-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.486 mmol, 160 mg | C1(=CCCCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C20H27NO3
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
product | tert-butyl 9-cyclohexyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 150 mg, 93.2% | C1(CCCCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C20H29NO3
